US05439925
A solution of 2.81 g (15.6 mmol) of 4-(methoxycarbonyl )benzoic acid in 30 ml of tetrahydrofuran is placed at 0° C., then treated with 2.61 ml (18.7 mmol) of triethylamine and 1.94 ml (20.3 mmol) of ethyl chloroformate and left stirring for 1 hour at 0° C. A solution of 1.52 g (23.4 mmol) of sodium azide in 10 ml of water is added to this medium, the mixture is left stirring at 0° C. for 3 hours and the reaction medium is then poured into ice-cold water and extracted with ethyl ether. The organic phase is washed with water, dried over magnesium sulphate and evaporated. The residue is dissolved in 30 ml of toluene, heated to 100° C. for 1.5 hours and then cooled to room temperature. 4.82 g (18.7 mmol) of 3-(1-adamantyl)-4-methoxyaniline are then added dropwise to the foregoing solution and the mixture is stirred at 50° C. for 1.5 hours. It is evaporated to dryness, the solid is taken up with ethyl ether and the organic phase is dried over magnesium sulphate and evaporated. The residue is recrystallized in ethyl acetate to yield 6.16 g (91%) of methyl 4-[3-(1-adamantyl)-4-methoxyphenylureido]benzoate, melting point 223°-224 ° C.

reactant | 4-(methoxycarbonyl )benzoic acid | 15.6 mmol, 2.81 g | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | triethylamine | 18.7 mmol, 2.61 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 20.3 mmol, 1.94 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 23.4 mmol, 1.52 g | [N-]=[N+]=[N-].[Na+]
reactant | 3-(1-adamantyl)-4-methoxyaniline | 18.7 mmol, 4.82 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(N)C=CC2OC | C17H23NO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | methyl 4-[3-(1-adamantyl)-4-methoxyphenylureido]benzoate | 6.16 g, 91% | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)NC(NC2=CC=C(C(=O)OC)C=C2)=O | C26H30N2O4
